US08703768B2
Step 1: Methyl 5-(2-hydroxy-2-methylpropoxy)-2-nitrobenzoate
A mixture of methyl 5-hydroxy-2-nitrobenzoate (0.5 g, 2.54 mmol), 2,2-dimethyloxirane (6.86 ml, 7.61 mmol), potassium carbonate (351 mg, 2.54 mmol) and sodium dihydrogen phosphate monohydrate (350 mg, 2.54 mmol) in acetonitrile (4 ml) and water (0.6 ml) was stirred at 140° (5 bar) in a steel bomb for 6 hr. After cooling to r.t, the mixture was diluted with water, extracted with AcOEt, dried over MgSO4, filtered and evaporated. The crude product was purified by silica gel chromatography using a methylenechloride/MeOH gradient to obtain the title compound (200 mg, 29%) as light yellow viscous oil.

reactant | methyl 5-hydroxy-2-nitrobenzoate | 2.54 mmol, 0.5 g | OC=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-] | C8H7NO5
reactant | 2,2-dimethyloxirane | 7.61 mmol, 6.86 ml | CC1(OC1)C | C4H8O
reactant | potassium carbonate | 2.54 mmol, 351 mg | C([O-])([O-])=O.[K+].[K+]
reactant | sodium dihydrogen phosphate monohydrate | 2.54 mmol, 350 mg | O.P(=O)(O)(O)[O-].[Na+]
solvent | acetonitrile | 4 ml | C(C)#N | C2H3N
solvent | water | 0.6 ml | O | H2O
product | Methyl 5-(2-hydroxy-2-methylpropoxy)-2-nitrobenzoate | 200 mg, 29% | OC(COC=1C=CC(=C(C(=O)OC)C1)[N+](=O)[O-])(C)C | C12H15NO6
